US05395934
5Chloro-4-[N-(3-hydroxypropyl)-amino]-2-methyl-3(2H)-pyridazinone
3.58 g (20 mmoles) of 4,5-dichloro-2-methyl-3(2H)-pyridazinone and 3.76 g (50 mmoles) of 3-aminopropanol are dissolved in 35 ml of water. The mixture is boiled for 4 hours under stirring and reflux cooling, then it is cooled and extracted with 200 ml of dichloromethane. The organic phase is dried, evaporated and the crude product is subjected to chromatography on a silica gel column. Thus 0.84 g (19%) of the desired compound is obtained. M.p.: 65°-66° C., Rf =0.7.

reactant | 4,5-dichloro-2-methyl-3(2H)-pyridazinone | 20 mmoles, 3.58 g | ClC=1C(N(N=CC1Cl)C)=O | C5H4Cl2N2O
reactant | 3-aminopropanol | 50 mmoles, 3.76 g | NCCCO | C3H9NO
solvent | water | 35 ml | O | H2O
product | 5Chloro-4-[N-(3-hydroxypropyl)-amino]-2-methyl-3(2H)-pyridazinone | 0.84 g, 19% | ClC1=C(C(N(N=C1)C)=O)NCCCO | C8H12ClN3O2
